US07482356B2
Preparation of 3-[2-(2-Methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-3-oxo-propionic acid ethyl ester (12):
To a solution of the 3-oxo-3-pyrazolidin-1-yl propionic acid ethyl ester, 11, (8.8 g, 47.7 mmol) in DMF (165 mL) is added 2-methylsulfanyl-pyrimidine-4-carboxylic acid (8.5 g, 50.1 mmol), followed by 1-hydroxybenzotriazole (12.9 g, 95.5 mmol) and then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (11.0 g, 57.3 mmol). The reaction mixture is stirred at room temperature for 22 hours then poured into aqueous saturated NaHCO3. The aqueous phase is extracted three times with EtOAc and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo to afford 10.5 g of the desired compound which is used without further purification.

reactant | 3-oxo-3-pyrazolidin-1-yl propionic acid ethyl ester | C(C)OC(CC(N1NCCC1)=O)=O | C8H14N2O3
reactant | 2-methylsulfanyl-pyrimidine-4-carboxylic acid | 50.1 mmol, 8.5 g | CSC1=NC=CC(=N1)C(=O)O | C6H6N2O2S
reactant | 1-hydroxybenzotriazole | 95.5 mmol, 12.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 57.3 mmol, 11.0 g | Cl.CN(CCCN=C=NCC)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 165 mL | CN(C)C=O | C3H7NO
product | 3-[2-(2-Methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-3-oxo-propionic acid ethyl ester | 10.5 g | C(C)OC(CC(=O)N1N(CCC1)C(=O)C1=NC(=NC=C1)SC)=O | C14H18N4O4S
